US05990105
0.15 g (0.00042 mol) of 2-bromo-6-methyl-4-(4-nitrobenzenesulphonyl)-pyridine was dissolved in 10 ml of methanol, treated with 0.18 g of iron powder and a solution of 0.18 g of NH4Cl in 5 ml of water and heated at reflux for 1 hr. Thereafter, the reaction mixture was poured into a mixture of ethyl acetate and water, suction filtered and the organic phase was extracted with water and sat. sodium chloride solution and dried over MgSO4. After removal of the solvent the residue was dried in a high vacuum. There was obtained 0.134 g (98%) of 4-(2-bromo-6-methylpyridine-4-sulphonyl)-phenylamine as yellowish crystals; m.p.: 189-191° C.

reactant | 2-bromo-6-methyl-4-(4-nitrobenzenesulphonyl)-pyridine | 0.00042 mol, 0.15 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C12H9BrN2O4S
reactant | NH4Cl | 0.18 g | [NH4+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
catalyst | iron | 0.18 g | [Fe] | Fe
product | 4-(2-bromo-6-methylpyridine-4-sulphonyl)-phenylamine | 0.134 g, 98% | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)C | C12H11BrN2O2S
